US09255089B2
4-(5-Amino-2-cyclopropylpyridin-3-yl)-6-(3,5-dimethylisoxazol-4-yl)-1H-benzo[d]imidazol-2(3H)-one (75 mg, 0.21 mmol) was dissolved in acetonitrile (2 mL), at room temperature added tert-butyl nitrite (32 mg, 0.31 mmol) and CuBr2 (56 mg, 0.25 mmol), stirred at room temperature for 1 h. The reaction mixture was diluted with EtOAc, washed with brine, evaporated organic solvent, purified with Prep HPLC. (0-100% CH3CN/H2O) to afford 16 mg of N-(6-cyclopropyl-5-(6-(3,5-dimethylisoxazol-4-yl)-2-oxo-2,3-dihydro-1H-benzo[d]imidazol-4-yl)pyridin-3-yl)acetamide.

reactant | 4-(5-Amino-2-cyclopropylpyridin-3-yl)-6-(3,5-dimethylisoxazol-4-yl)-1H-benzo[d]imidazol-2(3H)-one | 0.21 mmol, 75 mg | NC=1C=C(C(=NC1)C1CC1)C1=CC(=CC=2NC(NC21)=O)C=2C(=NOC2C)C | C20H19N5O2
reactant | tert-butyl nitrite | 0.31 mmol, 32 mg | N(=O)OC(C)(C)C | C4H9NO2
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(6-cyclopropyl-5-(6-(3,5-dimethylisoxazol-4-yl)-2-oxo-2,3-dihydro-1H-benzo[d]imidazol-4-yl)pyridin-3-yl)acetamide | 16 mg | C1(CC1)C1=C(C=C(C=N1)NC(C)=O)C1=CC(=CC=2NC(NC21)=O)C=2C(=NOC2C)C | C22H21N5O3
